US08110579B2
According to the method described in example 4.3, starting from 4.95 g (16.7 mmol) of [3-(benzyloxy)-4-(trifluoromethyl)phenyl]boronic acid and 3.88 g (16.72 mmol) of methyl 6-bromo-5-hydroxypyridine-2-carboxylate, we obtain 4.38 g of methyl 6-[3-(benzyloxy)-4-(trifluoromethyl)phenyl]-5-hydroxypyridine-2-carboxylate in the form of a white solid.

reactant | [3-(benzyloxy)-4-(trifluoromethyl)phenyl]boronic acid | 16.7 mmol, 4.95 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1C(F)(F)F)B(O)O | C14H12BF3O3
reactant | methyl 6-bromo-5-hydroxypyridine-2-carboxylate | 16.72 mmol, 3.88 g | BrC1=C(C=CC(=N1)C(=O)OC)O | C7H6BrNO3
product | methyl 6-[3-(benzyloxy)-4-(trifluoromethyl)phenyl]-5-hydroxypyridine-2-carboxylate | 4.38 g, Yield=65% | C(C1=CC=CC=C1)OC=1C=C(C=CC1C(F)(F)F)C1=C(C=CC(=N1)C(=O)OC)O | C21H16F3NO4
